US07090866B2
(a) Preparation of Fentanyl 0.126% Dispersion
Gelatin (765 g) and mannitol (540 g) were dispersed in a portion of purified water (16 kg) by mixing thoroughly in the bowl of a vacuum mixer. The mix was then heated to 40° C.±2° C. and homogenised for ten minutes to allow complete dissolution of the solids. The mix was cooled down to room temperature (20–24° C.). When cooled, the fentanyl citrate (22.68 g), the aspartame (90 g), and mint flavour (90 g) were added sequentially to the mix. The mix was then homogenized to ensure complete dissolution of the solids. The remaining water (492 g) was added to the mixer and the bulk mix homogenized to ensure dissolution was complete.

reactant | mannitol | 540 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | fentanyl citrate | 22.68 g | CCC(=O)N(C=1C=CC=CC1)C2CCN(CC2)CCC=3C=CC=CC3.C(C(=O)O)C(CC(=O)O)(C(=O)O)O
reactant | aspartame | 90 g | COC(=O)[C@H](CC=1C=CC=CC1)NC(=O)[C@H](CC(=O)O)N | C14H18N2O5
solvent | water | 492 g | O | H2O
solvent | water | 16 kg | O | H2O
product | Fentanyl | CCC(=O)N(C=1C=CC=CC1)C2CCN(CC2)CCC=3C=CC=CC3 | C22H28N2O
